US07981918B2
3-(2,6-Dichloro-4-methoxy-benzyl)-1-(1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one
Cool a solution of 1-(1,4-Dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one (5 g, 22.2 mmol) in tetrahydrofuran (100 mL) to −78° C. under nitrogen purge. Add LDA (2.0 M, 15 mL, 30 mmol) at a rate such that the internal reaction temperature did not reach above −67° C. Stir 30 min at −78° C., add a solution of 2-bromomethyl-1,3-dichloro-5-methoxy-benzene, 6.6 g, 24.4 mmol) in THF (20 mL) over a 1-2 minute period, remove the cold bath and allow reaction to warm over 3 hr. Quench the reaction with saturated aqueous ammonium chloride (100 mL), extract with ethyl acetate (3×100 mL), combine the extracts and dry over anhydrous sodium sulfate. Purify on silica column eluting with 8:2 hexanes:ethyl acetate to 1:1 hexanes:ethyl acetate to afford the product as a ivory solid, 6.5 g, 71%. 1H NMR (CDCl3) δ 6.86 (s, 2H), 4.06-4.12 (m, 1H), 3.94 (s, 4H), 3.77 (s, 3H), 3.32-3.41 (m, 2H), 3.15-3.21 (m, 1H), 2.83-2.97 (m, 2H), 1.68-2.04 (m, 8H). LCMS m+1 414.

reactant | 1-(1,4-Dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | 22.2 mmol, 5 g | O1CCOC12CCC(CC2)N2C(CCC2)=O | C12H19NO3
reactant | LDA | 30 mmol, 2.0 M, 15 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromomethyl-1,3-dichloro-5-methoxy-benzene | BrCC1=C(C=C(C=C1Cl)OC)Cl | C8H7BrCl2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2,6-Dichloro-4-methoxy-benzyl)-1-(1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | ClC1=C(CC2C(N(CC2)C2CCC3(OCCO3)CC2)=O)C(=CC(=C1)OC)Cl | C20H25Cl2NO4
